US06727249B2
(1R*,2R*,5R*)-8-Benzyl-2-{(1S*)-1-[3,5-bis(trifluoromethyl)phenyl]-(methoxycarbonyl)methoxy}-1-phenyl-8-azabicyclo[3.2.1]octane
Slow addition of methyl 2-diazo-2-(3,5-bis(trifluoromethyl)phenyl)acetate (504 mg, 1.61 mmol) as a solution in benzene (3 ml) to (1R*,2R*,5R*)-8-benzyl-1-phenyl-8-azabicyclo[3.2.1]octan-2-ol (Description 9; 430 mg, 1.47 mmol) in benzene (3 ml) was carried out in the presence of catalytic rhodium acetate (5 mg) at reflux under N2. The reaction mixture was concentrated in vacuo to give a green oil then purified by flash column chromatography [15% ethyl acetate in iso-hexane] to give the title compound as a yellow oil (mainly 1 isomer)(735 mg, 87%).

reactant | methyl 2-diazo-2-(3,5-bis(trifluoromethyl)phenyl)acetate | 1.61 mmol, 504 mg | [N+](=[N-])=C(C(=O)OC)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C11H6F6N2O2
reactant | (1R*,2R*,5R*)-8-benzyl-1-phenyl-8-azabicyclo[3.2.1]octan-2-ol | 1.47 mmol, 430 mg | C(C1=CC=CC=C1)N1[C@@]2([C@@H](CC[C@H]1CC2)O)C2=CC=CC=C2 | C20H23NO
solvent | benzene | 3 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 3 ml | C1=CC=CC=C1 | C6H6
catalyst | rhodium acetate | 5 mg | C(C)(=O)[O-].[Rh+3].C(C)(=O)[O-].C(C)(=O)[O-]
product | (1R*,2R*,5R*)-8-Benzyl-2-{(1S*)-1-[3,5-bis(trifluoromethyl)phenyl]-(methoxycarbonyl)methoxy}-1-phenyl-8-azabicyclo[3.2.1]octane | C(C1=CC=CC=C1)N1[C@@]2([C@@H](CC[C@H]1CC2)O[C@@H](C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C(=O)OC)C2=CC=CC=C2 | C31H29F6NO3
